US04897393
4-hydroxy-3,5-di(tert.-butyl)benzoic acid and 2-amino-4-nitrophenol are treated in the same manner as described in Preparation 5-(1) and Preparation 1-(2) to give N-(5-amino-2-hydroxyphenyl)-4-hydroxy-3,5-di(tert.-butyl)benzamide are obtained.

reactant | 4-hydroxy-3,5-di(tert.-butyl)benzoic acid | OC1=C(C=C(C(=O)O)C=C1C(C)(C)C)C(C)(C)C | C15H22O3
reactant | 2-amino-4-nitrophenol | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
product | N-(5-amino-2-hydroxyphenyl)-4-hydroxy-3,5-di(tert.-butyl)benzamide | NC=1C=CC(=C(C1)NC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)O | C21H28N2O3
